US07745229B2
A. Synthesis of 3-azidocoumarin
3-Aminocoumarin (250 mg, 1.6 mmol) was dissolved in 30 mL of 3% HCl at room temperature. After cooling to 0-5° C., the solution was added drop-wise to a solution of NaNO2 (160 mg, 2.3 mmol) and stirred for two hours. Upon addition of NaN3 (150 mg, 2.3 mmol), the mixture was stirred at 0-5° C. for two hours followed by stirring at room temperature for three and a half hours. The precipitate was filtered, washed to neutral pH with water and dried under vacuum to afford a white solid; yield (226 mg, 78%); mp: 108-112° C.; 1H-NMR (300 MHz, CDCl3): δ 7.2-7.6 (m, 5H).

reactant | 3-Aminocoumarin | 1.6 mmol, 250 mg | NC=1C(OC2=CC=CC=C2C1)=O | C9H7NO2
reactant | NaNO2 | 2.3 mmol, 160 mg | N(=O)[O-].[Na+]
reactant | NaN3 | 2.3 mmol, 150 mg | [N-]=[N+]=[N-].[Na+]
solvent | HCl | 30 mL | Cl | ClH
product | 3-azidocoumarin | N(=[N+]=[N-])C=1C(OC2=CC=CC=C2C1)=O | C9H5N3O2
